US07585886B2
A 310 mg portion of benzyl 6-{(3S,4S)-3-({[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-[3-(trifluoromethyl)phenyl]pyrrolidin-1-yl}-6-oxohexanoate was dissolved in 2 ml of methanol and 2 ml of THF, mixed with 2 ml of 1 M sodium hydroxide aqueous solution at room temperature and stirred for 16 hours. The reaction solution was washed with diethyl ether, 1 M hydrochloric acid was added to the water layer until its pH became 2.0, and then this was extracted with chloroform. After washing this with saturated brine, the organic layer was dried with anhydrous sodium sulfate and concentrated under a reduced pressure. By purifying the thus obtained residue by a silica gel column chromatography (chloroform-methanol), 6-{(3S,4S)-3-({[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-[3-(trifluoromethyl)phenyl]pyrrolidin-1-yl}-6-oxohexanoic acid was obtained. The thus obtained compound was dissolved in 2 ml of 4 M hydrogen chloride/1,4-dioxane solution and then concentrated under a reduced pressure. THF and diethyl ether were added to the residue, the thus obtained precipitate was collected by filtration, and the filtered product was dried under a reduced pressure to obtain 200 mg of 6-{(3S,4S)-3-({[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-[3-(trifluoromethyl)phenyl]pyrrolidin-1-yl}-6-oxohexanoic acid hydrochloride as a colorless solid.

reactant | benzyl 6-{(3S,4S)-3-({[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-[3-(trifluoromethyl)phenyl]pyrrolidin-1-yl}-6-oxohexanoate | C1(=CC=CC2=CC=CC=C12)[C@@H](C)NC[C@H]1CN(C[C@@H]1C1=CC(=CC=C1)C(F)(F)F)C(CCCCC(=O)OCC1=CC=CC=C1)=O | C37H39F3N2O3
reactant | sodium hydroxide | 1 M, 2 ml | [OH-].[Na+]
solvent | methanol | 2 ml | CO | CH4O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 6-{(3S,4S)-3-({[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-[3-(trifluoromethyl)phenyl]pyrrolidin-1-yl}-6-oxohexanoic acid | C1(=CC=CC2=CC=CC=C12)[C@@H](C)NC[C@H]1CN(C[C@@H]1C1=CC(=CC=C1)C(F)(F)F)C(CCCCC(=O)O)=O | C30H33F3N2O3
